US07579449B2
1-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranos-1-yl)-3-[4-(trifluoromethylsulphonyloxy)-benzyl]-4-methyl-benzene
A solution of 0.62 g 1-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranos-1-yl)-3-(4-hydroxy-benzyl)-4-methyl-benzene in 4.5 ml dry dichloromethane is cooled to −10° C. under argon. 0.14 ml of pyridine and a solution of 0.3 g trifluoromethanesulphonic anhydride in 0.5 ml dichloromethane are added to the cooled solution. The solution is stirred for 0.5 h at −5 to −10° C., before aqueous sodium hydrogen carbonate solution is added. The mixture is extracted three times with dichloromethane, the combined organic phases are washed with aqueous 1 M hydrochloric acid and dried over sodium sulphate. After the solvent has been eliminated the residue is chromatographed through silica gel (cyclohexane/ethyl acetate 15:1->7:1).

reactant | 1-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranos-1-yl)-3-(4-hydroxy-benzyl)-4-methyl-benzene | 0.62 g | C(C1=CC=CC=C1)O[C@H]1[C@](O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=C(C=C1)C)CC1=CC=C(C=C1)O | C48H48O7
reactant | pyridine | 0.14 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulphonic anhydride | 0.3 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 4.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 1-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranos-1-yl)-3-[4-(trifluoromethylsulphonyloxy)-benzyl]-4-methyl-benzene | C(C1=CC=CC=C1)O[C@H]1[C@](O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=C(C=C1)C)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C49H47F3O9S
